US07767817B2
8-Bromo-2-methyl-quinoline (2).
To a refluxed solution of 2-bromoaniline (5.0 g, 29.1 mmol) in 6 N hydrochloric acid (15 mL) was added crotonaldehyde (2.2409 g, 32.0 mmol) drop wise. After heated under reflux for 8 h, the reaction mixture was cooled down and washed with 20 ml of ether, followed by addition of zinc chloride (3.95 g). The reaction mixture was stirred for 30 min at room temperature and another 15 min at 0° C. to give yellow solid. The solid was collected and washed with 3 N cold hydrochloric acid, and then suspended in 2-propanol (20 mL) and stirred for 5 min at room temperature. The solid was filtered and washed with 2-propanol until the washing becomes colorless, then washed with 20 mL of ether and dried with air. The solid was suspended in 15 mL of cold water and 5 mL of concentrated ammonium hydroxide was added. Shake it and then extract with 3×20 mL of ether. Dried over magnesium sulfate and concentrated to give a dark solid. Purification by chromatography (EtOAC/Hexanes 10:90) yielded a white solid product. (3.62 g, 56%) 1H NMR(400 MHz CDCl3) δ8.02 (2H, t, J=8.4 Hz), 7.73 (1H, d, J=8 Hz), 7.33 (2H, t, J=8), 2.82 (3H, s); 13C NMR (300 MHz CDCl3) δ160.2, 144.7, 136.4, 132.8, 127.6, 127.3, 125.9, 124.0, 122.7, 25.6; EIMS, m/z 221/223 (M/(M+2)); Anal. Calcd for C10H8BrN: C, 54.08; H, 3.63; N, 6.31. Found: C, 54.25; H, 3.41; N, 5.89.

reactant | 2-bromoaniline | 29.1 mmol, 5.0 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | crotonaldehyde | 32.0 mmol, 2.2409 g | C(\C=C\C)=O | C4H6O
solvent | hydrochloric acid | 6 N, 15 mL | Cl | ClH
product | 8-Bromo-2-methyl-quinoline | BrC=1C=CC=C2C=CC(=NC12)C | C10H8BrN
